US08445501B2
2-({[4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-methyl)-morpholine-4-carboxylic acid tert-butyl ester
Starting from 4-(5-cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A67) and 2-aminomethyl-morpholine-4-carboxylic acid tert-butyl ester the title compound is obtained as colorless solid.

reactant | 4-(5-cyclopropylmethoxy-1,3-benzodioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C18H15N3O5
reactant | 2-aminomethyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)CN | C10H20N2O3
product | 2-({[4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-methyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C28H33N5O7
